data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2761,3067,[CH3:18][O:19][C:20](=[O:21])[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N+:29]([CH3:30])=[C:31]([C:32]([CH3:33])=[O:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([O:19][CH3:18])=[O:21])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:29]([CH3:30])[C:31]2([C:32]([CH3:33])=[O:34])[c:35]1[cH:36][cH:37][cH:38][cH:39][cH:40]1,water,298.15,36.96742150948275,-4.910372237213932
4997,5685,[CH3:9][O:10][C:11](=[O:12])[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)=[N+:20]([CH3:21])[N-:22][c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[N:22]([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[N:20]([CH3:21])[C:13]1([C:11]([O:10][CH3:9])=[O:12])[c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1,water,298.15,23.31137567154376,-14.129191858349571
2688,2986,[CH3:14][O:15][C:16](=[O:17])[C:18](=[NH+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3]1=[C:4]([C:5]([F:6])([F:7])[F:8])[CH:9]2[CH2:10][CH2:11][CH:12]1[CH2:13]2>>[CH3:1][O:2][C:3]12[C:4]([C:5]([F:6])([F:7])[F:8])([CH:9]3[CH2:10][CH2:11][CH:12]1[CH2:13]3)[C:18]([C:16]([O:15][CH3:14])=[O:17])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[NH:19][C:20]2([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,43.18988249016668,9.97599731360554
4553,5193,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH:11]#[N+:12][C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:11]=[N:12][C:13]2([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,17.93622532449129,-26.89283442251132
4167,4770,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[N:11]#[C:12][CH:13]=[O+:14][C-:15]([C:16]#[N:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:16]#[N:17])([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[O:14][CH:13]2[C:12]#[N:11],water,298.15,5.395093257868984,-45.33451176653639
1713,1895,[CH3:18][NH:19][C:20](=[O:21])[C:22]([C:23]#[N:24])=[O+:25][C-:26]([CH3:27])[C:28]#[N:29].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH:14]=[CH:15][CH:16]1[O:17]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH:14]=[CH:15][CH:16]1[O:17]3)[C:22]([C:20]([NH:19][CH3:18])=[O:21])([C:23]#[N:24])[O:25][C:26]2([CH3:27])[C:28]#[N:29],water,298.15,6.918749315518211,-42.82746490998967
58,69,[CH2-:9][NH+:10]=[C:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16].[CH:1]#[C:2][c:3]1[cH:4][cH:5][cH:6][cH:7][cH:8]1>>[CH:1]1=[C:2]([c:3]2[cH:4][cH:5][cH:6][cH:7][cH:8]2)[CH2:9][NH:10][C:11]1([CH3:12])[C:13](=[O:14])[O:15][CH3:16],water,298.15,20.155791709079747,-44.9305451150925
5107,5797,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][N+:12](=[C:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1)[C-:26]([C:27]#[N:28])[C:29]#[N:30]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:26]([C:27]#[N:28])([C:29]#[N:30])[N:12]([CH3:11])[C:13]2([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[c:20]1[cH:21][cH:22][cH:23][cH:24][cH:25]1,water,298.15,45.85213062978424,6.512865823964346
3744,4282,[CH3:10][NH:11][C:12](=[O:13])[C:14]([CH3:15])=[O+:16][C-:17]([CH3:18])[CH3:19].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]1([CH3:3])[CH:4](/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9])[C:14]([C:12]([NH:11][CH3:10])=[O:13])([CH3:15])[O:16][C:17]1([CH3:18])[CH3:19],water,298.15,19.13581868382065,-45.28793654121583
1364,1499,[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2.[N:13]#[C:14][c:15]1[nH+:16][c-:17](-[c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[c:24](=[O:25])[o:26]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([Cl:7])[CH:8]2[CH:9]3[CH:10]([CH:11]1[O:12]2)[C:15]1([C:14]#[N:13])[NH:16][C:17]3([c:18]2[cH:19][cH:20][cH:21][cH:22][cH:23]2)[C:24](=[O:25])[O:26]1,water,298.15,15.352529255400512,-22.66748081029072
672,732,[CH3:10][NH:11][C:12](=[O:13])[C:14](=[NH+:15][N-:16][C:17]#[N:18])[C:19](=[O:20])[NH:21][CH3:22].[CH3:1][O:2][C:3]1=[CH:4][CH:5]2[CH2:6][CH2:7][CH:8]1[CH2:9]2>>[CH3:1][O:2][C:3]12[CH:4]([CH:5]3[CH2:6][CH2:7][CH:8]1[CH2:9]3)[N:16]([C:17]#[N:18])[NH:15][C:14]2([C:12]([NH:11][CH3:10])=[O:13])[C:19](=[O:20])[NH:21][CH3:22],water,298.15,26.612883198659816,-10.958506883501173
